US05968674
Synthesis of N,N-Di-p-tolylamine
To a round bottom flask (3 L) equipped with a condenser a Dean-Stark trap, a mechanical stirrer, and an argon-outlet with a thermometer, was added 4'-methylacetanilide (448 g, 3.0 mol), 4-iodotoluene (746 g, 3.4 mol, from Aldrich), potassium carbonate (830 g, 6.0 mol), copper sulfate (20 g), and toluene (50 mL). The reaction mixture was heated at 210° C. for 24 hours in an oil bath. The resulting solution was decanted to a round bottom flask (5 L) and the remaining solid was washed with hot ethanol (3×500). To the combined mixtures were added potassium hydroxide (340 g) and water (400 mL) and then refluxed for 24 h. To resulting solution was added concentrated HCI (400 mL) dropwise followed by toluene (1,000 mL). The mixture was refluxed for 10 min. The hot organic layer (top) was separated, washed with a hot water (500 mL×2), and concentrated under reduced pressure. The resulting solid was recrystallized from the mixture of toluene (100 mL) and hexanes (700 mL). The obtained wet crystals were ground with a mortar and pestle, filtered, washed with hexanes (100 mL), and dried in air for 24 hours to give brown crystals (360 g, 6 mol). The filtrate was concentrated under reduced pressure and recrystallized from the mixture of toluene (20 mL) and hexanes (150 mL) to give a brown solid (120 g, second crop). The combined solid was distilled at 165 oC. and 1 Torr to give a white solid (445 g) while the forerun first portion (15 g, distilled at 65-80°C. and 1 Torr) was discarded. The white solid was recrystallized from hexanes (500 mL) to give a white solid (422 g, 71% yield). Melting point: 80-82° C. (lit. 79°oo C. TCl catalog) 1H-NMR (CDCl3): 7.04 (d, 4H), 6.93 (d, 4H), 5.45 (s, br, 1H), 2.33 (s, 6H) ppm. Note that when iodotoluenes from Oakwood Product Inc., or Charkit Chemical Inc., were used, the above reaction was very slow. Three portions of CuSO4 (50 g) was added every 10 hours and the reaction was completed in 40 hours (over 95% conversion of 4'-methylacetanilide). During work-up after hydrolysis, suction filtraton was required to remove copper residues.

reactant | 4'-methylacetanilide | CC1=CC=C(NC(C)=O)C=C1 | C9H11NO
catalyst | CuSO4 | 50 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | N,N-Di-p-tolylamine | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
